US07563787B2
N-(5-methyl-1H-pyrazol-3-yl)-6-morpholino-2-styrylpyrimidin-4-amine
Example 64 was synthesized via Scheme 6 according to the general scheme provided above with the appropriate starting materials cinnamonitrile, 5-methyl-1H-pyrazole-3-amine, and morpholine. Structure of the target was confirmed by 1H-NMR. The 1H-NMR is attached.

reactant | cinnamonitrile | C(C=CC1=CC=CC=C1)#N | C9H7N
reactant | 5-methyl-1H-pyrazole-3-amine | CC1=CC(=NN1)N | C4H7N3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-(5-methyl-1H-pyrazol-3-yl)-6-morpholino-2-styrylpyrimidin-4-amine | CC1=CC(=NN1)NC1=NC(=NC(=C1)N1CCOCC1)C=CC1=CC=CC=C1 | C20H22N6O
